datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10][H].[H][O+:21]=[C:20]([S][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][H])([S][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C([H])[S][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[O]C.[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[O]C 21=20;20,10=10"
"[H][S+:10](C([H])C(CC)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(CC)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[H][NH:10]C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([O]C)[O]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)C1=CC=CC=C1)CC>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)C1=CC=CC=C1)CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([NH:21]CC)([NH][H])[O][H].[Cl-]>>[Cl-].[H][O:10][H].CC[NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"[O:10]([K])C(CC)C(C)C(C)C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(C)C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)[H])CCCCCC>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)[H])[O-:10])CCCCCC 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])[O][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C([H])C(C)C([H])[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"CC[O:10][H].CC[NH+:21]=[C:20]([NH]C)[O]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]CC)([NH]C)[O]CC 10=20;20,21=21"
"[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O][H].[Cl-]>>[Cl-].[H][S:10]C([H])C(C)[S][C:20]([O][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])[H]>>CCN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)[H] 10=20;20,21=21"
"[H][O:10]C([H])C([H])[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][S+:10](C(C)C([H])[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[NH:10](C)C(C1=C(C([CH:20](C)=[O:21])O)C=CC=C1)[H]>>[O-:21][CH:20]2(C)C(C3=C(C([NH+:10]2(C))[H])C=CC=C3)O 10=20;20,21=21"
